US07943619B2
{6-[3-(4-Fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-pyridazin-3-yl}-thiomorpholin-4-yl-methanone
As described for example 59, 6-[3-(4-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-pyridazine-3-carboxylic acid ethyl ester (143 mg, 0.4 mmol) was converted, using thiomorpholine instead of aminomethylcyclopropane, to the title compound (140 mg, 85%) which was obtained as an off-white solid. MS: m/e=415.4 [M+H]+.

reactant | 6-[3-(4-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-pyridazine-3-carboxylic acid ethyl ester | 0.4 mmol, 143 mg | C(C)OC(=O)C=1N=NC(=CC1)OCC=1C(=NOC1C)C1=CC=C(C=C1)F | C18H16FN3O4
reactant | thiomorpholine | N1CCSCC1 | C4H9NS
product | {6-[3-(4-Fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-pyridazin-3-yl}-thiomorpholin-4-yl-methanone | 140 mg, 85% | FC1=CC=C(C=C1)C1=NOC(=C1COC1=CC=C(N=N1)C(=O)N1CCSCC1)C | C20H19FN4O3S
